US07951815B2
1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one (2.6 g, 5.5 mmol) was dissolved in ethyl methyl ketone (21 mL), and water (54 μL) and TMSCl (763 μL) were added and the mixture was stirred overnight. Hexane (10 mL) was then added, and the solid matter was isolated by filtration and dried in vacuo. The precipitated solid matter was isolated by filtration and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 2.53 g (90%). Examples 35 and 36 were prepared with irradiation by microwaves:

reactant | 1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one | 5.5 mmol, 2.6 g | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)CC2=CC=CC=C2)=O | C28H28ClN3O2
reactant | water | 54 μL | O | H2O
reactant | TMSCl | 763 μL | C[Si](C)(C)Cl | C3H9ClSi
reactant | Hexane | 10 mL | CCCCCC | C6H14
solvent | ethyl methyl ketone | 21 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(4-chlorobenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)CC2=CC=CC=C2)=O | InChI=1S/C28H28ClN3O2.ClH/c29-24-13-11-23(12-14-24)26(33)31-17-15-28(16-18-31)30-25(19-21-7-3-1-4-8-21)27(34)32(28)20-22-9-5-2-6-10-22;/h1-14,25,30H,15-20H2;1H/t25-;/m0./s1
